US08013156B2
1-[2-(Pyridin-4-yloxymethyl)phenyl]piperazine.
(2-piperazin-1-yl-phenyl)-methanol (200 mg, 1.04 mmol) was added to a suspension of 4-chloropyridine hydrochloride (225 mg, 1.50 mmol), tris[2-(2-methoxy)ethyl]amine (32 μL, 0.10 mmol), powdered potassium hydroxide (225 mg, 4.01 mmol) and potassium carbonate (275 mg, 1.99 mmol) in 10 mL of toluene. The reaction mixture was heated to 120° C. overnight. The reaction mixture was concentrated and the residue was purified by reverse phase HPLC. The material was still less than 50% pure, but was used in the next step without further purification.

reactant | (2-piperazin-1-yl-phenyl)-methanol | 1.04 mmol, 200 mg | N1(CCNCC1)C1=C(C=CC=C1)CO | C11H16N2O
reactant | 4-chloropyridine hydrochloride | 1.50 mmol, 225 mg | Cl.ClC1=CC=NC=C1
reactant | potassium hydroxide | 4.01 mmol, 225 mg | [OH-].[K+]
reactant | potassium carbonate | 1.99 mmol, 275 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(Pyridin-4-yloxymethyl)phenyl]piperazine | N1=CC=C(C=C1)OCC1=C(C=CC=C1)N1CCNCC1 | C16H19N3O
